US04460596
23 g of N-(4-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine, 6.1 g of 50% sodium hydride and 21.8 g of methyl bromoacetate are treated in the same manner as described in Preparation 1-(4). 18.6 g of methyl 3-(4-chlorobenzoylamino)-3-(3-thienylcarbonyl)propionate are thereby obtained.

reactant | N-(4-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine | 23 g | ClC1=CC=C(C(=O)NCC(=O)C2=CSC=C2)C=C1 | C13H10ClNO2S
reactant | sodium hydride | 6.1 g | [H-].[Na+]
reactant | methyl bromoacetate | 21.8 g | BrCC(=O)OC | C3H5BrO2
product | methyl 3-(4-chlorobenzoylamino)-3-(3-thienylcarbonyl)propionate | 18.6 g | ClC1=CC=C(C(=O)NC(CC(=O)OC)C(=O)C2=CSC=C2)C=C1 | C16H14ClNO4S
